US04971982
23.8 g of 4-cyanophenol in 150 ml of dimethylformamide were added dropwise to a stirred suspension of 6 g of 80% sodium hydride in 100 ml of dimethylformamide and the mixture was then stirred for a further 1 hour. 39 g of ethyl bromoisobutyrate were added dropwise and the mixture was heated to 100° C. for 76 hours. The solvents were removed by evaporation and the residue was partitioned between diethyl ether and water. The organic phase was washed in succession with 2M sodium hydroxide solution and sodium chloride solution and then evaporated to give 9.4 g of ethyl 2-(4-cyanophenoxy)-2-methylpropionate in the form of a colourless viscous liquid of boiling point 115°-117° C./0.05 mmHg.

reactant | 4-cyanophenol | 23.8 g | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | sodium hydride | 6 g | [H-].[Na+]
reactant | ethyl bromoisobutyrate | 39 g | BrC(C(=O)OCC)(C)C | C6H11BrO2
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | ethyl 2-(4-cyanophenoxy)-2-methylpropionate | 9.4 g | C(#N)C1=CC=C(OC(C(=O)OCC)(C)C)C=C1 | C13H15NO3
